US07060827B2
In a like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-4-pyrimidineamine and 5-amino-2,3-dihydro-2-(methoxycarbonyl)benzofuran were reacted to produce N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-[2,3-dihydro-2-(methoxycarbonyl)benzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.99 (bs, 1H), 9.49 (bs, 1H), 8.18 (d, 1H, J=4.5 Hz), 8.08 (t, 1H, J=2.4 Hz), 7.81–7.74 (m, 1H), 7.49 (d, 1H, J=8.1 Hz), 7.42 (s, 1H), 7.20 (d, 1H, J=8.1 Hz), 6.78 (d, 1H, J=8.7 Hz), 5.36 (m, 1H), 3.80–3.47 (m, 4H), 3.20 (dd, 1H, J=6.0 and 16.5 Hz); LCMS: purity: 100%; MS (m/e): 500(MH+).

reactant | 2-chloro-N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC(F)(F)F)Cl)F | C11H5Cl2F4N3O
reactant | 5-amino-2,3-dihydro-2-(methoxycarbonyl)benzofuran | NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C10H11NO3
product | N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-[2,3-dihydro-2-(methoxycarbonyl)benzofuran-5-yl]-2,4-pyrimidinediamine | ClC=1C=C(C=CC1OC(F)(F)F)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C21H15ClF4N4O4
